US05965555
C1) 1-(7-Dipropylamino-4-hydroxy-4-methyl-5-heptynyl)-3-ethyl-7-propyl-xanthine
5.3 ml (8.45 mmol) of a 15% strength butyllithium solution in n-hexane were slowly added dropwise to a solution of 1.36 ml (7.8 mmol) of N,N-dipropyl-2-propynylamine in 6 ml of tetrahydrofuran at -78° C., and the mixture was stirred at -78° C. for one hour. After warming to room temperature, a solution of 2.0 g (6.5 mmol) of 3-ethyl-1-(4-oxopentyl)-7-propylxanthine in 8 ml of tetrahydrofuran was added. After 7 hours at room temperature, the mixture was adjusted to pH 6-7 with 4 N hydrochloric acid and partitioned between 5% strength sodium bicarbonate solution and dichloromethane. The organic phase was dried with magnesium sulfate, concentrated under reduced pressure and purified by flash chromatography, dichloromethane/methanol=19/1.

reactant | butyllithium | C(CCC)[Li]
reactant | N,N-dipropyl-2-propynylamine | 7.8 mmol, 1.36 ml | C(CC)N(CCC)CC#C | C9H17N
reactant | 3-ethyl-1-(4-oxopentyl)-7-propylxanthine | 6.5 mmol, 2.0 g | C(C)N1C(N(C(C=2N(C=NC12)CCC)=O)CCCC(C)=O)=O | C15H22N4O3
reactant | hydrochloric acid | 4 N | Cl | ClH
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | 1-(7-Dipropylamino-4-hydroxy-4-methyl-5-heptynyl)-3-ethyl-7-propyl-xanthine | C(CC)N(CC#CC(CCCN1C(=O)N(C=2N=CN(C2C1=O)CCC)CC)(C)O)CCC | C24H39N5O3
